US07524860B2
1-Ethyl-3-[5-(3-methyl-[1,2,4]oxadiazol-5-yl)-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-urea
2-(3-Ethyl-ureido)-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridine-5-carboxylic acid amide, which may be prepared as in Example 16, (200 mg, 0.62 mmol) was suspended in DMA (8 mL) and preheated to 90° C. Dimethylacetamide-dimethylacetal (0.45 mL, 3.07 mmol) was added and the solution was heated at 90° C. for 30 minutes. The reaction was allowed to cool, diluted with water (100 mL), then extracted with CH2Cl2 (3×50 mL). The combined CH2Cl2 fractions were washed with water (3×50 mL), brine (50 mL), and dried (Na2SO4). The mixture was filtered under reduced pressure. The resultant oil was dissolved in a mixture of dioxane and acetic acid (3 mL of a 1:1 mixture). Hydroxylamine hydrochloride (64 mg, 0.92 mmol) and 2 M NaOH solution (0.46 mL, 0.92 mmol) were added and the mixture was stirred at 90° C. for 2 h. The reaction mixture was allowed to cool, concentrated under reduced pressure and diluted with water (50 mL) to afford a precipitate. The precipitate was collected by filtration, then purified by chromatography on silica gel (5% MeOH/CH2Cl2 as eluant) to give the desired product, 1-ethyl-3-[5-(3-methyl-[1,2,4]oxadiazol-5-yl)-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-urea (27) as a solid mp. 298-301° C.

reactant | 2-(3-Ethyl-ureido)-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridine-5-carboxylic acid amide | C(C)NC(NC1=NN2C(C=C(C=C2C(=O)N)C=2C=NC=CC2)=N1)=O | C15H15N7O2
reactant | Dimethylacetamide-dimethylacetal | 3.07 mmol, 0.45 mL | COC(C)(N(C)C)OC | C6H15NO2
reactant | Hydroxylamine hydrochloride | 0.92 mmol, 64 mg | Cl.NO
reactant | NaOH | 0.92 mmol, 2 M, 0.46 mL | [OH-].[Na+]
solvent | DMA | 8 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 100 mL | O | H2O
product | 1-ethyl-3-[5-(3-methyl-[1,2,4]oxadiazol-5-yl)-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-urea | C(C)NC(=O)NC1=NN2C(C=C(C=C2C2=NC(=NO2)C)C=2C=NC=CC2)=N1 | C17H16N8O2
